Test Circuit for the Sine, Cosine and Tangent Functions
********************************************************************************
* Tier No.:     1
* Directory/Circuit Name: ABM_SCT/sct.cir
* Description:  Test of the ChileSPICE analog behavioral modeling sine, cosine 
*	and tangent functions. 
* Input:  VS 
* Output: V(2), V(3), V(4), V(5)
* Analysis:
*	A DC voltage source, VS or V(1),  is used as the circuit input.  Four nonlinear dependent 
*	voltage sources are used to define the functions as follows:
*		V(2)=B2=SIN(V(1)) = sine of input source
*		V(3)=B3=COS(V(1)) = cosine of input source
*		V(4)=B4=TAN(V(1)) = tangent of input source
*		V(5)=B5=V(2)/V(3) = mathematical evaluation of the tangent function =(SIN/COS)
*
*	This table is a set of hand calculations for the SIN, COS and TAN functions
*	X		SIN(X)		COS(X)		TAN(X)
*	0		0		1		0
*	0.5		0.479425539	0.877582562	0.54630249
*	1		0.841470985	0.540302306	1.557407725
*	1.5		0.997494987	0.070737202	14.10141995
*	1.6		0.999573603	-0.029199522	-34.23253274
*	2		0.909297427	-0.416146837	-2.185039863
*	2.5		0.598472144	-0.801143616	-0.747022297
*	3		0.141120008	-0.989992497	-0.142546543
*	3.1		0.041580662	-0.99913515	-0.041616655
*	3.2		-0.058374143	-0.998294776	0.058473854
*	4		-0.756802495	-0.653643621	1.157821282
*	4.6		-0.993691004	-0.112152527	8.860174896
*	4.62		-0.995735173	-0.092257602	10.7929878
*	4.63		-0.996607947	-0.082295803	12.11007009
*	4.69		-0.999749377	-0.02238711	44.65736663
*	5		-0.958924275	0.283662185	-3.380515006
*	5.5		-0.705540326	0.708669774	-0.995584052
*	6		-0.279415498	0.960170287	-0.291006191
*	6.2		-0.083089403	0.996542097	-0.083377715
*	6.5		 0.215119988	0.976587626	 0.2202772
********************************************************************************
VS  1  0  0
R1  1  0  1
B2  2  0  V = {SIN(V(1))}
R2  2  0  1
B3  3  0  V = {COS(V(1))}
R3  3  0  1
B4  4  0  V = {TAN(V(1))}
R4  4  0  1
B5  5  0  V = {V(2)/V(3)}
R5  5  0  1
.DC VS 0 6.5 0.1
.PRINT DC V(1) V(2) V(3) V(4) V(5)
.END

